US05198449
α-(4-Fluorophenyl)-1-(3-phenoxypropyl)-4-piperidinemethanamine dihydrochloride hemihydrate
A suspension of the (4-fluorophenyl)[1-(3-phenoxypropyl)-4-piperidinyl]methanone oxime (5.00 g, 0.014 mol) in 100 mL of ethanol was subjected to hydrogenation (52 psi) in the presence of Raney nickel for 16 hours at room temperature. The catalyst was removed by filtration, and ethanol was removed by the rotary evaporator to give a clear oil. This oil was converted to the HCl salt in methanol using ethereal HCl. A white solid was isolated and dried in vacuo 16 hours at 80° C. in the presence of phosphorus pentoxide. This process provided 3.22 g (54.2%) of white crystalline solid, mp 247°-248° C. (dec).

reactant | (4-fluorophenyl)[1-(3-phenoxypropyl)-4-piperidinyl]methanone oxime | 0.014 mol, 5.00 g | FC1=CC=C(C=C1)C(=NO)C1CCN(CC1)CCCOC1=CC=CC=C1 | C21H25FN2O2
reactant | HCl | Cl | ClH
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | Raney nickel | [Ni] | Ni
solvent | methanol | CO | CH4O
product | α-(4-Fluorophenyl)-1-(3-phenoxypropyl)-4-piperidinemethanamine dihydrochloride hemihydrate | 3.22 g, 54.2% | O.Cl.Cl.FC1=CC=C(C=C1)C(N)C1CCN(CC1)CCCOC1=CC=CC=C1.FC1=CC=C(C=C1)C(N)C1CCN(CC1)CCCOC1=CC=CC=C1.Cl.Cl | InChI=1S/2C21H27FN2O.4ClH.H2O/c2*22-19-9-7-17(8-10-19)21(23)18-11-14-24(15-12-18)13-4-16-25-20-5-2-1-3-6-20;;;;;/h2*1-3,5-10,18,21H,4,11-16,23H2;4*1H;1H2
